US03959364
2,5-Dibromo-1-nitrobenzene and o-fluoroiodobenzene were reacted under Ullmann conditions to give 4-bromo2'-fluoro-2-nitrobiphenyl, b.p. 125°-140°C./0.2mm (m.p. 71°-73°C. after recrystallisation from industrial methylated spirits). This was reduced to give 2-amino-4-bromo-2'-fluorobiphenyl, m.p. 52°-54°C., which was deaminated to give the product, b.p. 105°-115°C./0.5mm (m.p. 40°-42°C. after recrystallisation from petroleum, b.p. 40°-60°C.).

reactant | 2,5-Dibromo-1-nitrobenzene | BrC1=C(C=C(C=C1)Br)[N+](=O)[O-] | C6H3Br2NO2
reactant | o-fluoroiodobenzene | FC1=C(C=CC=C1)I | C6H4FI
product | 2-amino-4-bromo-2'-fluorobiphenyl | NC1=C(C=CC(=C1)Br)C1=C(C=CC=C1)F | C12H9BrFN
